US07345178B2
5-Methyl-2-(3-nitro-phenyl)-oxazolo[4,5-b]pyridine (50 mg, 0.196 mmol) was mixed with 6 mL of MeOH along with 2 mL of water and 66 mg of sodium hydrosulfide hydrate. The reaction mixture was stirred under reflux for 2 hours. It was then concentrated and extracted with CH2Cl2. The combined organic layers were dried (Na2SO4) and concentrated to afford 20 mg of 3-(5-methyl-oxazolo[4,5-b]pyridin-2-yl)-phenylamine.

reactant | 5-Methyl-2-(3-nitro-phenyl)-oxazolo[4,5-b]pyridine | 0.196 mmol, 50 mg | CC1=CC=C2C(=N1)N=C(O2)C2=CC(=CC=C2)[N+](=O)[O-] | C13H9N3O3
reactant | MeOH | 6 mL | CO | CH4O
reactant | sodium hydrosulfide hydrate | 66 mg | O.[SH-].[Na+]
solvent | water | 2 mL | O | H2O
product | 3-(5-methyl-oxazolo[4,5-b]pyridin-2-yl)-phenylamine | 20 mg | CC1=CC=C2C(=N1)N=C(O2)C=2C=C(C=CC2)N | C13H11N3O
